US05087640
To a solution of 3.5 g N-t-butyl-N'-(3,5-dibromophenyl)thiourea produced in Example A-9 in 80 ml of dichloromethane were added 5.0 g of triphenylphosphine, 3.0 g of carbon tetrachloride and 1.9 g of triethylamine. The mixture was refluxed for 4 hours and evaporated in vacuo. The residue was extracted with petroleum ether and the extract evaporated in vacuo to give N-t-butyl-N'-(3,5-dibromophenyl)carbodiimide as an oil. To a solution of this oil in 30 ml of DMF were added 1.9 g of cyanamide and 0.1 ml of diisopropylethylamine. The mixture was stirred at 100° C. for 4 hours, cooled to room temperature and poured into 700 ml of water. The resulting crystals were collected, washed with small amount of cyclohexane and recrystallized from benzene to give 2.0 g of the title compound as colorless needles melting at 189.0°-191.0° C.

reactant | N-t-butyl-N'-(3,5-dibromophenyl)thiourea | 3.5 g | C(C)(C)(C)NC(=S)NC1=CC(=CC(=C1)Br)Br | C11H14Br2N2S
reactant | triphenylphosphine | 5.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 3.0 g | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triethylamine | 1.9 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | N-t-butyl-N'-(3,5-dibromophenyl)carbodiimide | C(C)(C)(C)N=C=NC1=CC(=CC(=C1)Br)Br | C11H12Br2N2
